US08232312B2
[(3-chloro-5-trimethylsilylethynyl-Phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetic acid
180 mg tert-butyl [(3-chloro-5-trimethylsilylethynyl-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetate are dissolved in 5 ml dichloromethane. 1 ml of trifluoroacetic acid is added with stirring. The mixture is stirred overnight at ambient temperature and then the solvents are eliminated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 100:0 to 95:5).

reactant | tert-butyl [(3-chloro-5-trimethylsilylethynyl-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetate | 180 mg | ClC=1C=C(C=C(C1)C#C[Si](C)(C)C)S(=O)(=O)N(C=1C=CC=2N(C3=CC=CC=C3C2C1)CC)CC(=O)OC(C)(C)C | C31H35ClN2O4SSi
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [(3-chloro-5-trimethylsilylethynyl-Phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetic acid | ClC=1C=C(C=C(C1)C#C[Si](C)(C)C)S(=O)(=O)N(C=1C=CC=2N(C3=CC=CC=C3C2C1)CC)CC(=O)O | C27H27ClN2O4SSi
